US08278336B2
Step 3: (1-benzylpiperidin-4-yl)-[2-(5-methoxy-2-nitrophenyl)-ethyl]-amine
Under a nitrogen atmosphere a mixture of 9.98 g (50.9 mmol) 2-(5-methoxy-2-nitrophenyl)-ethylamine, 9.80 mL (54.9 mmol) N-benzylpiperidone and 6.30 mL (114 mmol) acetic acid in 270 mL dichloromethane was cooled to 0° C. in an ice bath. At this temperature 14.2 g (67.0 mmol) sodium triacetoxyborohydride were added batchwise within 20 min. The reaction mixture was left for a further 4 h at 0° C. and warmed up to RT overnight. Then the mixture was combined with 400 mL of a 15% (w/v) aqueous potassium carbonate solution and stirred for 1 h at RT. The organic phase was separated off, dried and concentrated by rotary evaporation.

reactant | 2-(5-methoxy-2-nitrophenyl)-ethylamine | 50.9 mmol, 9.98 g | COC=1C=CC(=C(C1)CCN)[N+](=O)[O-] | C9H12N2O3
reactant | N-benzylpiperidone | 54.9 mmol, 9.80 mL | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | acetic acid | 114 mmol, 6.30 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 67.0 mmol, 14.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 270 mL | ClCCl | CH2Cl2
product | (1-benzylpiperidin-4-yl)-[2-(5-methoxy-2-nitrophenyl)-ethyl]-amine | C(C1=CC=CC=C1)N1CCC(CC1)NCCC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C21H27N3O3
